US08809525B2
3-(Methylsulfanyl)-5-(4-fluorophenyl)-1,2,4-triazine (6.00 g, 69%) was prepared from methyl hydrazinecarbimidothioate (4.51 g, 43.0 mmol) and 4-fluorophenylglyoxal monohydrate (6.60 g, 43.0 mmol) according to the general procedure of Preparation 2.

reactant | methyl hydrazinecarbimidothioate | 43.0 mmol, 4.51 g | N(N)C(=N)SC | C2H7N3S
reactant | 4-fluorophenylglyoxal monohydrate | 43.0 mmol, 6.60 g | O.FC1=CC=C(C=C1)C(=O)C=O
product | 3-(Methylsulfanyl)-5-(4-fluorophenyl)-1,2,4-triazine | 6.00 g, 69% | CSC=1N=NC=C(N1)C1=CC=C(C=C1)F | C10H8FN3S
